US08530490B2
Reference Example 15 (3-(cyclopropylmethoxy)-4-fluorophenyl)(4-fluorophenyl)methanamine
4-Fluoro-3-hydroxybenzoic acid (2.0 g) was dissolved in DMF (15 mL). To the solution, (chloromethyl)cyclopropane (2.4 mL), potassium carbonate (3.9 g), and potassium iodide (212 mg) were added, and the mixture was stirred at 90° C. for 6 hours. The reaction mixture was cooled to room temperature, water (30 mL) was then added thereto, and the resultant mixture was then extracted with toluene (30 mL). The organic layer was washed with brine (30 mL), dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was dissolved in toluene (10 mL). To the mixture, a solution of DIBAL in hexane (1.0 M, 20 mL) was added dropwise at 0° C., and the reaction mixture was stirred at 0° C. for 2 hours. To the reaction mixture, water (1.0 mL) and an aqueous sodium hydroxide solution (1.0 M, 1.0 mL) were gradually added. The resultant precipitate was removed by filtration and washed with ethyl acetate (10 mL×5). Then, the combined filtrate was concentrated under reduced pressure. To the residue, water (20 mL) was added, and the resultant mixture was then extracted with ethyl acetate (30 mL). The organic layer was washed with brine (15 mL), dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (40% ethyl acetate/hexane). The obtained compound was dissolved in dichloromethane (20 mL). To the solution, manganese dioxide (8.6 g) was added at room temperature, and the mixture was heated to reflux at 45° C. for 6 hours. The reaction mixture was cooled to room temperature, and the precipitate was removed by filtraion and washed with chloroform (20 mL×4). Then, the combined filtrate was concentrated under reduced pressure. The residue was dissolved in THF (2.0 mL). To the mixture, a solution of 4-fluorophenylmagnesium bromide in THF (1.0 M, 12 mL) was added dropwise at 0° C., and the mixture was stirred at room temperature for 2 hours. To the reaction mixture, an aqueous saturated ammonium chloride solution (10 mL) was added at 0° C., and the resultant mixture was then extracted with ethyl acetate (15 mL×2). The organic layer was washed with brine (20 mL), dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (30% ethyl acetate/hexane). The obtained compound was dissolved in chloroform (10 mL). To the solution, sodium azide (1.9 g) was added. To the reaction mixture, trifluoroacetic acid (3.6 mL) was added dropwise at 0° C., and the mixture was then stirred at room temperature for 1 hour. To the reaction mixture, water (10 mL) was added, and the resultant mixture was then extracted with chloroform (10 mL). The organic layer was washed with an aqueous saturated sodium bicarbonate solution (10 mL), dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20% ethyl acetate/hexane). The obtained compound was dissolved in methanol (30 mL). To the solution, 10% palladium-carbon (420 mg) was added, and the reaction mixture was stirred at room temperature for 2 hours under a hydrogen atmosphere. The precipitate was removed by filtration through a pad of Celite and washed with methanol (80 mL). Then, the combined filtrate was concentrated under reduced pressure to obtain the title compound (2.08 g) as a crude product.

reactant | 4-Fluoro-3-hydroxybenzoic acid | 2.0 g | FC1=C(C=C(C(=O)O)C=C1)O | C7H5FO3
reactant | (chloromethyl)cyclopropane | 2.4 mL | ClCC1CC1 | C4H7Cl
reactant | potassium carbonate | 3.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 212 mg | [I-].[K+]
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | (3-(cyclopropylmethoxy)-4-fluorophenyl)(4-fluorophenyl)methanamine | 2.08 g | C1(CC1)COC=1C=C(C=CC1F)C(N)C1=CC=C(C=C1)F | C17H17F2NO
